US08865712B2
j) 5-(6-Bromo-pyridin-2-yl)-5-hydroxymethyl-morpholin-3-one
To the solution of N-[1-(6-bromo-pyridin-2-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide (5.4 g, 16.69 mmol) in t-BuOH (80 ml) was added t-BuOK (2.06 g, 18.38 mmol) at rt followed by sodium iodide (0.25 g, 1.669 mmol) and allowed the reaction mixture to stir at 90° C. for 1 h. The reaction mixture was concentrated under reduced pressure and the residue obtained was treated with water. Compound present in the residue was extracted with ethyl acetate (2×100 ml). Organic portion was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to obtain gummy compound. Further trituration of the formed product with n-pentane (5.0 ml) and diethyl ether (5.0 ml) furnished title compound as a pale yellow gummy compound. Yield=3.3 g (68.8%). TLC (50% ethyl acetate in hexane) Rf=0.21; LCMS: RtH8=0.155, [M+1]=286.9 and 288.8; HPLC RtH9=3.03 min (69.8%); 1H NMR (400 MHz, CDCl3): δ 8.40 (s, 1H), 7.79 (t, 1H), 7.57 (d, 2H), 5.11 (s, 1H), 4.15 (d, 1H), 3.99 (d, 2H), 3.88 (d, 1H), 3.71-3.60 (m, 2H).

reactant | N-[1-(6-bromo-pyridin-2-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 16.69 mmol, 5.4 g | BrC1=CC=CC(=N1)C(CO)(CO)NC(CCl)=O | C10H12BrClN2O3
reactant | t-BuOK | 18.38 mmol, 2.06 g | CC(C)(C)[O-].[K+]
reactant | sodium iodide | 1.669 mmol, 0.25 g | [I-].[Na+]
reactant | water | O | H2O
solvent | t-BuOH | 80 ml | CC(C)(C)O | C4H10O
solvent | diethyl ether | 5.0 ml | C(C)OCC | C4H10O
solvent | n-pentane | 5.0 ml | CCCCC | C5H12
product | 5-(6-Bromo-pyridin-2-yl)-5-hydroxymethyl-morpholin-3-one | BrC1=CC=CC(=N1)C1(COCC(N1)=O)CO | C10H11BrN2O3
